US09302988B2
Step 2: (3-(4-Chlorophenyl)-4-methyl-1H-pyrrol-2-yl)(morpholino)methanone
To a solution of 3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid (1.71 g, 7.26 mmol) and DIPEA (1.39 mL, 7.98 mmol) in DCM (50 mL) were added morpholine (664 μL, 7.62 mmol), HOAt (99 mg, 726 μmol) and EDCI (1.53 g, 7.98 mmol) and the reaction mixture was stirred at room temperature for 2 h. The mixture was washed with brine (100 mL) and the organic layer was dried (Na2SO4) and concentrated. Purification by column chromatography (silica, DCM/(7 M NH3 in MeOH), 98:2) afforded the desired product (1.73 g, 78%).

reactant | 3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid | 7.26 mmol, 1.71 g | ClC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)O | C12H10ClNO2
reactant | DIPEA | 7.98 mmol, 1.39 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 7.62 mmol, 664 μL | N1CCOCC1 | C4H9NO
reactant | HOAt | 726 μmol, 99 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 7.98 mmol, 1.53 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (3-(4-Chlorophenyl)-4-methyl-1H-pyrrol-2-yl)(morpholino)methanone | 1.73 g, 78% | ClC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)N1CCOCC1 | C16H17ClN2O2
